US07850872B2
As shown in the following Reaction 7, 250 mg (1.19 mmol) of 4-trimethylsilylethynyl benzaldehyde obtained in A of Example 1-2 was melted in 10 mL of methylenechloride and 10 mL of methanol at room temperature, and 1.25 g (9.04 mmol, 7.6 eq) of potassium carbonate was added thereto, and then the reaction solution was stirred for 6 hours. Next, the reaction solution was extracted with ether 2 times and with 1M sodium chloride aqueous solution 1 time. The organic solvent layer was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase volume ratio; ethylacetate:n-hexane=1:10) to obtain 130 mg of 4-ethynylbenzaldehyde with the yield of 93%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 10,02 (s, 1H), 7.83 (d, 2H), 7.63 (d, 2H), 3.27 (s, 1H)].

reactant | 4-trimethylsilylethynyl benzaldehyde | 1.19 mmol, 250 mg | C[Si](C)(C)C#CC1=CC=C(C=O)C=C1 | C12H14OSi
reactant | methanol | 10 mL | CO | CH4O
reactant | potassium carbonate | 9.04 mmol, 1.25 g, 7.6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | methylenechloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-ethynylbenzaldehyde | 130 mg, yield of 93% | C(#C)C1=CC=C(C=O)C=C1 | C9H6O
